US08293768B2
Synthesis of 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a solution of 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid (0.55 g, 1.35 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added 1-hydroxy benzotriazole (0.22 g, 1.62 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (0.31 g, 1.62 mmol), diisopropylethylamine (0.85 mL, 4.87 mmol) and 3-(aminomethyl)pyridine (0.17 mL, 1.62 mmol). The resulting solution was stirred at ambient temperature for 16 hours, then concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL), washed with saturated aqueous sodium bicarbonate solution (15 mL) and brine (15 mL). The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography eluted with 55-75% ethyl acetate in hexanes to afford the title compound as a colorless solid in 45% yield (0.30 g): mp 185-187° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.61 (s, 1H), 8.54 (d, J=6.0 Hz, 1H), 7.87 (s, 1H), 7.78 (d, J=6.0 Hz, 1H), 7.70 (d, J=9.0 Hz, 1H), 7.45 (s, 1H), 7.36-7.28 (m, 2H), 6.09 (br s, 1H), 4.70 (s, 2H), 4.60 (d, J=3.0 Hz, 2H), 4.06 (t, J=6.0 Hz, 2H), 3.47 (t, J=6.0 Hz, 2H), 2.61 (s, 3H); MS (ES+) m/z 498.1 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 1.35 mmol, 0.55 g | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 1-hydroxy benzotriazole | 1.62 mmol, 0.22 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 1.62 mmol, 0.31 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | diisopropylethylamine | 4.87 mmol, 0.85 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(aminomethyl)pyridine | 1.62 mmol, 0.17 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 45% yield | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C23H20ClN5O2S2
